datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC1=CC=C([B-:11]2([C:10]3=CC=C(C)S3)[O:12]C(C)(C)C(C)(C)[O:62]2)S1.FC(F)(F)[S:20][N:21]([S:32](C1=CC=CC=C1)(=[O:33])=[O:34])[S:42](C1=CC=CC=C1)(=[O:43])=[O:44]>>C1=CC=C([S:32]([N-:21][S:42](C2=CC=CC=C2)(=[O:43])=[O:44])(=[O:33])=[O:34])C=C1.CC1=CC=C([B-:11]2=[O+:12]C(C)(C)C(C)(C)[O:62]2)S1.CC1=CC=[C:10]([S:20]C(F)(F)F)S1 10,11=10,20;12=11,12;20,21=21"
"CC(C)(C1=C(I)C=CC=C1)[O:21][S:20]C(F)(F)F.[N-:10]=[N+:11]=[N-:12]>>CC(C)(C1=C(I)C=CC=C1)[O-:21].FC(F)(F)[S:20][N-:10][N+:11]#[N:12] 10,11=10,20;12=11,12;20,21=21"
"CC1=CC=C([P:10](C2=CC=C(C)C=C2)C2=CC=C(C)C=C2)C=C1.C[C:20]1=[CH:21][C:22](=[O:23])CC1>>CC1=CC=C([P+:10](C2=CC=C(C)C=C2)(C2=CC=C(C)C=C2)[C:20]2(C)CC[C:22]([O-:23])=[CH:21]2)C=C1 10=20;20,21=21,22;22,23=23"
"C[C:11]([H:10])([CH:12]=[CH2:13])[CH:72]=[CH2:73].[O+]#C[Co-3:32]12(C#[O+])(C#[O+])C3(C4=CC=CC=C4)[C:31]1([CH2+:20])[Co-3:42]32(C#[O+])(C#[O+])C#[O+]>>C[C:11](=[CH:12][CH2+:13])[CH:72]=[CH2:73].[O+]#C[Co-3:32]12(C#[O+])(C#[O+])C3(C4=CC=CC=C4)[C:31]1([CH2:20][H:10])[Co-3:42]32(C#[O+])(C#[O+])C#[O+] 10,11=10,20;12,13=11,12"
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20]C(F)(F)F)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].O=C(OCC1=CC=CC=C1)[NH:12][C:11](=[CH2:10])[C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20](C(F)(F)F)[CH2:10][C:11](=[NH+:12]C(=O)OCC2=CC=CC=C2)[C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)=[CH:22]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"C1=CC=C(/[CH:20]=[CH:21]/[C:22]#[N:23])C=C1.O=[N+]([O-])C1=CC=C(/[CH:10]=[C:11](/[N:12]2CCCC2)[C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)C=C1>>O=[N+]([O-])C1=CC=C([CH:10]([C:11](=[N+:12]2CCCC2)[C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)[CH:20](C2=CC=CC=C2)[CH:21]=[C:22]=[N-:23])C=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[O:72][C:61](/[CH:10]=[CH:11]/[N:12]1CCOCC1)=[O:62].ClC[N+]12CC[N+:21]([F:20])(CC1)CC2>>CC[O:72][C:61]([CH:10]([CH:11]=[N+:12]1CCOCC1)[F:20])=[O:62].ClC[N+]12CC[N:21](CC1)CC2 10,11=10,20;12=11,12;20,21=21"
"CC1=CC=C([P:10](C2=CC=C(C)C=C2C)C2=CC=C(C)C=C2C)C(C)=C1.CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[C:22](=[O:23])[N:51](C)C(=S)[N:52](C)[C:32]2=[O:33])[CH:46]=[CH:45]1>>CC1=CC=C([P+:10](C2=CC=C(C)C=C2C)(C2=CC=C(C)C=C2C)[CH:20]([C:21]2=[C:22]([O-:23])[N:51](C)C(=S)[N:52](C)[C:32]2=[O:33])[C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)C(C)=C1 10=20;20,21=21,22;22,23=23"
"CC(C)[Si:11](C(C)C)(C(C)C)[H:10].C[N:49](C)[C:46]1=[CH:45][CH:44]=[C:43]([C:42](=[CH:41][CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:53]2=[CH:54][CH:55]=[C:56]([N:59](C)C)[CH:57]=[CH:58]2)[CH:48]=[CH:47]1>>CC(C)[Si+:11](C(C)C)C(C)C.C[N:49](C)[C:46]1=[CH:45][CH:44]=[C:43]([C:42](=[CH:41][CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:53]2=[CH:54][CH:55]=[C:56]([N:59](C)C)[CH:57]=[CH:58]2)[CH:48]=[CH:47]1 10,11=10,20"
"CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][C:43](C)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.C[N:14]1[CH:10]=[CH:11][CH:12]=[CH:13]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([CH:10]2[CH:11]=[CH:12][CH:13]=[N+:14]2C)([C:41]2=[CH:42][C:43](C)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10,11=10,20;12,13=11,12;14=13,14"
"CC1(C)C[C:11]([O-:12])=[N:10][C:61](=[O:62])C1.[C+:20]1([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[C:42]([CH:43]=[CH:44][CH:45]=[CH:46]2)[C:52]2=[C:51]1[CH:56]=[CH:55][CH:54]=[CH:53]2>>CC1(C)C[C:11](=[O:12])[N:10]([C:20]2([C:31]3=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]3)[C:41]3=[C:42]([CH:43]=[CH:44][CH:45]=[CH:46]3)[C:52]3=[C:51]2[CH:56]=[CH:55][CH:54]=[CH:53]3)[C:61](=[O:62])C1 10,11=10,20;12=11,12"
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20]/[CH:41]=[CH:42]/C2=CC=C([N+](=O)[O-])C=C2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].[N:10]1=[CH:61][CH:62]=[CH:63][CH:72]=[CH:71]1>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20]([N+:10]2=[CH:61][CH:62]=[CH:63][CH:72]=[CH:71]2)/[CH:41]=[CH:42]/C2=CC=C([N+](=O)[O-])C=C2)=[CH:22]1 10=20;20,21=21,22;22,23=23,24;24,25=25"
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].C[Si:63]1(C)CC[CH:11]([H:10])[CH2:62]1>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20]([H:10])[C:41]2=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]2)=[CH:22]1.C[Si:63]1(C)CC[CH+:11][CH2:62]1 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
"CCCC[C-:10]([C:61](=[O:62])[O:112]CC)[C:71](=[O:72])[O:82]CC.COC1=CC=C([N+]2=C([C:22](/[CH:21]=[CH:20]/[C:31]3=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]3)=[O:23])N(C)C=C2)C=C1>>CCCC[C:10]([CH:20]([CH:21]=[C:22](C1=[N+](C2=CC=C(OC)C=C2)C=CN1C)[O-:23])[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)([C:61](=[O:62])[O:112]CC)[C:71](=[O:72])[O:82]CC 10=20;20,21=21,22;22,23=23"
